US04550166
A 5.9 g portion of 3-(2-pyridinyl)-2(1H)-pyridinone in 100 ml of phosphorus oxychloride was heated on a steam bath for 18 hours, then concentrated under vacuum. The residue was stirred with crushed ice and chloroform and adjusted to pH 7 with 10N sodium hydroxide. The organic layer was separated, dried, filtered through a short pad of hydrous magnesium silicate and the filtrate concentrated under vacuum to an oil. This oil was heated with hexane, filtered while hot and the filtrate cooled to room temperature, giving 3.5 g of 2'-chloro-2,3'-bipyridine as white needles, mp 50° C.

reactant | 3-(2-pyridinyl)-2(1H)-pyridinone | N1=C(C=CC=C1)C=1C(NC=CC1)=O | C10H8N2O
reactant | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2'-chloro-2,3'-bipyridine | 3.5 g | ClC1=NC=CC=C1C1=NC=CC=C1 | C10H7ClN2
